US04943583
2.5 g (7.5 mmol) of 2-chloro-6-fluoro-N'-(α,α,α-trifluoro-o-tolyl)-benzhydrazide are heated to reflux temperature (internal temperature 80° C.) for 16 hours in 35 ml of a 20% solution of phosgene (67 mmol) in toluene. Excess phosgene and toluene are then distilled off, and the residue is dissolved in 30 ml of methylene chloride and heated to reflux temperature for 30 minutes with the addition of 6.7 ml (48 mmol) of triethylamine. The mixture is subsequently washed with water, dried over anhydrous sodium sulfate and evaporated under reduced pressure. After chromatographic purification of the crude product with toluene/n-hexane (1:1) as the eluent and recrystallization from methylene chloride/n-hexane there is obtained pure 5-(2-chloro-6-fluorophenyl)-3-(α,α,α-trifluoro-o-tolyl)-1,3,4-oxadiazol-2(3H)-one, m.p. 109°-109.5° C.; IR spectrum: 1792 cm-1 ; mass spectrum: 358(14), 314(23), 159(100).

reactant | 2-chloro-6-fluoro-N'-(α,α,α-trifluoro-o-tolyl)-benzhydrazide | 7.5 mmol, 2.5 g | ClC1=C(C(=O)NNC2=C(C=CC=C2)C(F)(F)F)C(=CC=C1)F | C14H9ClF4N2O
reactant | phosgene | 67 mmol | C(=O)(Cl)Cl | CCl2O
reactant | triethylamine | 48 mmol, 6.7 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-(2-chloro-6-fluorophenyl)-3-(α,α,α-trifluoro-o-tolyl)-1,3,4-oxadiazol-2(3H)-one | ClC1=C(C(=CC=C1)F)C1=NN(C(O1)=O)C1=C(C=CC=C1)C(F)(F)F | C15H7ClF4N2O2
